US04762844
Preparation of 2-chloro-4,5-dimethyl-3-nitro-benzoic acid
31.6 g of 2-chloro-4,5-dimethylbenzoic acid are initially introduced into 94 ml of H2SO4. 19 g of KNO3 are added in portions, while cooling with ice. The mixture is subsequently warmed to 50° for a further 2 hours and then poured onto ice. The product is isolated and recrystallized from toluene. Yield: 25.3 g, melting point: 160°-63°.

reactant | 2-chloro-4,5-dimethylbenzoic acid | 31.6 g | ClC1=C(C(=O)O)C=C(C(=C1)C)C | C9H9ClO2
reactant | H2SO4 | 94 ml | OS(=O)(=O)O | H2O4S
reactant | KNO3 | 19 g | [N+](=O)([O-])[O-].[K+]
product | 2-chloro-4,5-dimethyl-3-nitro-benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1[N+](=O)[O-])C)C | C9H8ClNO4
